US05220042
1.51 Grams of 2,2'-pentamethylenebis[1,4-dimethoxy- 3,6-bis(methoxymethoxy)benzene] was dissolved in a mixed solvent of 40 ml of tetrahydrofuran with 4 ml of hexamethylphosphoric triamide, to this solution was added 0.55 ml of N,N,N',N'-tetramethylethylenediamine and the whole mixture was cooled to -78° C., on a dry ice-acetone bath. Then, 2.41 ml of n-butyllithium (1.6 M, n-hexane solution) was added dropwise to the reaction mixture and stirred for 30 minutes. Next, 0.25 ml of dimethyl sulfide was added to the reaction mixture and stirred overnight. The solvent was removed by evaporation under reduced pressure, then the residue obtained was extracted twice with 100 ml of ethyl acetate, then the ethyl acetate layer was washed twice with 100 ml of water, and twice with a saturated sodium chloride aqueous solution, then dried over anhydrous magnesium sulfate. The solvent was removed by evaporation under reduced pressure, and the residue obtained was purified by means of a preparative thin layer chromatography (thickness: 2 mm, adsorbent: Merck Art 5717 silica gel, developing solvent: 20% ethyl acetate-n-hexane). There were obtained 572 mg of 1-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]5-[2,5-dimethoxy-3,6-bis(methoxymethoxy)-4-(methylthio)phenyl]pentane, as well as 522 mg of 2,2'-pentamethylenebis[1,4-dimethoxy-3,6-bis(methoxymethoxy)-5-(methylthio)benzene].

reactant | 2,2'-pentamethylenebis[1,4-dimethoxy- 3,6-bis(methoxymethoxy)benzene] | COC1=C(C(=C(C=C1OCOC)OC)OCOC)CCCCCC1=C(C(=CC(=C1OCOC)OC)OCOC)OC | C29H44O12
reactant | N,N,N',N'-tetramethylethylenediamine | 0.55 ml | CN(CCN(C)C)C | C6H16N2
reactant | n-butyllithium | 1.6 M, 2.41 ml | C(CCC)[Li]
reactant | dimethyl sulfide | 0.25 ml | CSC | C2H6S
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoric triamide | 4 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 1-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]5-[2,5-dimethoxy-3,6-bis(methoxymethoxy)-4-(methylthio)phenyl]pentane | 572 mg | COC1=C(C(=C(C=C1OCOC)OC)OCOC)CCCCCC1=C(C(=C(C(=C1OCOC)OC)SC)OCOC)OC | C30H46O12S
